*
S1 N001 Vo- N003 0 SW
S2 0 Vo+ N003 0 SW
S3 N001 Vo+ N002 0 SW
S4 0 Vo- N002 0 SW
R1 P001 Vo- 5
L1 Vo+ P001 1m Rser=1m
V1 N001 0 {Vdc}
V2 N003 0 PULSE(0 100 {t_alpha} 1p 1p {Ton} {T} )
V3 N002 0 PULSE(0 100 {(T/2)+t_alpha} 1p 1p {Ton} {T} )
.model SW SW(Ron=1m Roff=1Meg Vt=0.6 Vh=0.2)
; --- Circuit Parameters ---
.param Vdc = 100
.param freq = 50
.param alpha_deg=30.0
.param Vgate = 5
; Force floating-point division using 360.0
.param T = 1/freq
.param t_alpha = (alpha_deg / 360.0) * T
.param Ton = (T/2) - (2*t_alpha)
; --- Simulation Command (Starts saving at 0s, runs for 6 full cycles = 120ms) ---
.tran 0 120m 0 100n
; --- Fourier Analysis (Analyzes last 20ms cycle from 100ms to 120ms) ---
.four 50 9 V(Vo+,Vo-)
; --- Automated Measurements (.meas) ---
.meas Vo_RMS RMS V(Vo+,Vo-) FROM 100m TO 120m
.meas Vo_AVG AVG V(Vo+,Vo-) FROM 100m TO 120m
.meas Vo_PEAK MAX V(Vo+,Vo-) FROM 100m TO 120m
.meas Io_RMS RMS I(R1) FROM 100m TO 120m
.meas P_AVG AVG V(Vo+,Vo-)*I(R1) FROM 100m TO 120m
.meas ALPHA PARAM  t_alpha
.meas T_ON PARAM Ton
.backanno
.end
